US07566735B2
N-[(4-bromophenyl)methyl]-N-methyl-1-pyrrolidinecarboxamide
N-[(4-bromophenyl)methyl]-1-pyrrolidinecarboxamide (230 mg, 0.81 mmol), was dissolved in dimethylformamide (2 ml) and treated at room temperature with a 60% sodium hydride suspension in mineral oil (33 mg, 0.83 mmol). This mix was stirred for 15 minutes before being treated with iodomethane (116 mg, 0.82 mmol). The resulting mix was stirred at 20° C. for a total of 16.5 hours. The reaction was quenched with water (4 ml) and extracted into ethyl acetate (4 ml). The organic layer was dried over sodium sulphate and the solvent removed under reduced pressure to give the title compound as a colourless oil (250 mg, crude). LC/Mass Spec (ES): Found 297 (ES+), retention time 2.90 mins. C13H1779BrN2O requires 296.

reactant | N-[(4-bromophenyl)methyl]-1-pyrrolidinecarboxamide | 0.81 mmol, 230 mg | BrC1=CC=C(C=C1)CNC(=O)N1CCCC1 | C12H15BrN2O
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | 0.82 mmol, 116 mg | IC | CH3I
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[(4-bromophenyl)methyl]-N-methyl-1-pyrrolidinecarboxamide | 250 mg | BrC1=CC=C(C=C1)CN(C(=O)N1CCCC1)C | C13H17BrN2O
